US07851473B2
(2) N-(1-Methyl-1H-benzimidazol-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (1-methyl-1H-benzimidazol-2-yl)carbamate (238 mg, 0.738 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.129 ml, 0.738 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and 145 mg (46.8%) of the desired product as a solid was separated by filtration.

reactant | 2,2,2-trichloroethyl (1-methyl-1H-benzimidazol-2-yl)carbamate | 0.738 mmol, 238 mg | CN1C(=NC2=C1C=CC=C2)NC(OCC(Cl)(Cl)Cl)=O | C11H10Cl3N3O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.738 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(1-Methyl-1H-benzimidazol-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 145 mg, 46.8% | CN1C(=NC2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C21H21N7OS
